US07358370B2
Sodium hydride (168 mg, 7.02 mmol, 1.0 eq.) was added to a solution of 6,6-dimethyl-3-trifluoromethyl-1,5,6,7-tetrahydro-indazol-4-one (1.63 g, 7.02 mmol, 1.0 eq.) in 35 mL of anhydrous dimethyl sulfoxide. After 15 min 2-bromo-4-fluorobenzonitrile (2.25 g, 11.23 mmol, 1.6 eq.) was added as a solid. The reaction mixture was heated at 45° C. After 23 h the reaction mixture was cooled to ambient temperature and quenched with 10 mL of saturated aqueous ammonium chloride. The mixture was diluted with water and extracted with ethyl acetate (4×). The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified on a Biotage (SiO2, hexanes-ethyl acetate) to afford 2-bromo-4-(6,6-dimethyl-4-oxo-3-trifluoromethyl-4,5,6,7-tetrahydro-indazol-1-yl)benzonitrile (1.83 g, 63%) as an off-white powder, LC/MS: (M+H)=412.0.

reactant | Sodium hydride | 7.02 mmol, 168 mg, 1.0 eq. | [H-].[Na+]
reactant | 6,6-dimethyl-3-trifluoromethyl-1,5,6,7-tetrahydro-indazol-4-one | 7.02 mmol, 1.63 g, 1.0 eq. | CC1(CC(C=2C(=NNC2C1)C(F)(F)F)=O)C | C10H11F3N2O
reactant | 2-bromo-4-fluorobenzonitrile | 11.23 mmol, 2.25 g, 1.6 eq. | BrC1=C(C#N)C=CC(=C1)F | C7H3BrFN
solvent | dimethyl sulfoxide | 35 mL | CS(=O)C | C2H6OS
product | 2-bromo-4-(6,6-dimethyl-4-oxo-3-trifluoromethyl-4,5,6,7-tetrahydro-indazol-1-yl)benzonitrile | 1.83 g, 63% | BrC1=C(C#N)C=CC(=C1)N1N=C(C=2C(CC(CC12)(C)C)=O)C(F)(F)F | C17H13BrF3N3O
